US06017919
3-(4-Hydroxyphenyl)propionitrile (1.47 g, 0.01 mol) was dissolved in DMF (24 ml), and to this solution were successively added benzyl bromide (1.31 ml, 0.011 mol, 1.1 eq) and anhydrous potassium carbonate (4.15 g, 0.030 mol, 3.0 eq). The mixture was stirred under heating at 90° C. for 3 hours. This reaction mixture was cooled to room temperature, and water (100 ml) was added. The mixture was extracted twice with ethyl acetate (100 ml). The organic layers were combined, washed with saturated brine (200 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure to give 3-(4-benzyloxyphenyl)propionitrile (2.39 g, 100%) as a colorless solid.

reactant | 3-(4-Hydroxyphenyl)propionitrile | 0.01 mol, 1.47 g | OC1=CC=C(C=C1)CCC#N | C9H9NO
reactant | benzyl bromide | 0.011 mol, 1.31 ml, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.030 mol, 4.15 g, 3.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | 3-(4-benzyloxyphenyl)propionitrile | 2.39 g, 100% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC#N | C16H15NO
